US04226768
8-Chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][1,4]benzodiazepine
A mixture of 0.4 g of 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-hydroxy-α-(4-morpholinyl)-1H-1,4-benzodiazepine-2-methanimine, 5 ml of glacial acetic acid and 0.4 ml of acetaldehyde was heated to reflux for 5 minutes. The usual workup and chromatography of the crude reaction mixture on 5 g of silica gel using 5% (v/v) of ethanol in methylene chloride gave yellow crystalline product identical with that described above.

reactant | 7-chloro-5-(2-fluorophenyl)-2,3-dihydro-N-hydroxy-α-(4-morpholinyl)-1H-1,4-benzodiazepine-2-methanimine | 0.4 g | ClC=1C=CC2=C(C(=NCC(N2)C(=NO)N2CCOCC2)C2=C(C=CC=C2)F)C1 | C20H20ClFN4O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 0.4 ml | C(C)=O | C2H4O
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-Chloro-6-(2-fluorophenyl)-1-methyl-3-morpholino-4H-imidazo[1,5-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NC3N3CCOCC3)C)C3=C(C=CC=C3)F)C1 | C22H20ClFN4O
